US07468370B2
1-[8-(3-Metylsulfanyl-phenyl)-[1,7]naphthyridin-6-yl]-piperidine-4-carboxylic acid
To a solution of 1-[8-(3-Methylsulfanyl-phenyl)-[1,7]naphthyridin-6-yl]-piperidine-4-carboxylic acid ethyl ester (134 mg, 0.33 mmol) in THF (1 ml) is added sodium hydroxide (0.33 ml of a 1M aqueous solution). The solution is stirred at room temperature for 23 hours and then partitioned between ethyl acetate and water. The aqueous extract is acidified with 7 M HCl to pH 4 and washed with ethyl acetate (3×). The combined organic layers are then concentrated to give the title compound as an amorphous solid. MS (TOF ES+) 380.1107

reactant | 1-[8-(3-Methylsulfanyl-phenyl)-[1,7]naphthyridin-6-yl]-piperidine-4-carboxylic acid ethyl ester | 0.33 mmol, 134 mg | C(C)OC(=O)C1CCN(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)SC | C23H25N3O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-[8-(3-Metylsulfanyl-phenyl)-[1,7]naphthyridin-6-yl]-piperidine-4-carboxylic acid | CSC=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)N1CCC(CC1)C(=O)O | C21H21N3O2S
